US04591458
A mixture of tert-butyl 3(S)-[1(S)-ethoxycarbonyl-9-phthalimidononyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate (0.08 g) and 5N hydrogen chloride-ethyl acetate solution (5 ml) is allowed to stand at room temperature for 3 hours. The mixture is diluted with petroleum ether (80 ml) to precipitate colorless powder, which is collected and dried under reduced pressure to yield 3(S)-[1(S)-ethoxycarbonyl-9-phthalimidononyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid hydrochloride (0.066 g).

reactant | tert-butyl 3(S)-[1(S)-ethoxycarbonyl-9-phthalimidononyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 0.08 g | C(C)OC(=O)[C@H](CCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2COC1=C(N(C2=O)CC(=O)OC(C)(C)C)C=CC=C1 | C35H45N3O8
reactant | hydrogen chloride-ethyl acetate | 5N, 5 ml | C(C)(=O)OCC.Cl
product | 3(S)-[1(S)-ethoxycarbonyl-9-phthalimidononyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid hydrochloride | 0.066 g | Cl.C(C)OC(=O)[C@H](CCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2COC1=C(N(C2=O)CC(=O)O)C=CC=C1 | InChI=1S/C31H37N3O8.ClH/c1-2-41-31(40)23(32-24-20-42-26-17-11-10-16-25(26)34(30(24)39)19-27(35)36)15-7-5-3-4-6-12-18-33-28(37)21-13-8-9-14-22(21)29(33)38;/h8-11,13-14,16-17,23-24,32H,2-7,12,15,18-20H2,1H3,(H,35,36);1H/t23-,24-;/m0./s1
